US08383637B2
2-(5-Benzoyl-2-nitro-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide
NaBH(OAc)3 (0.014 mol) was added to a mixture of 2-amino-ethanesulfonic acid cyclohexyl-methyl-amide (0.0091 mol) and 5-benzoyl-2-nitro-benzaldehyde (0.0091 mol) in DCE (150 mL). The reaction mixture was then stirred overnight at room temperature and then washed with saturated NaHCO3 solution. The organic layer was separated, dried (MgSO4), and filtered, and the solvent was evaporated. The residue was purified by column chromatography (eluent: 100% CH2Cl2). The purest product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | NaBH(OAc)3 | 0.014 mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 2-amino-ethanesulfonic acid cyclohexyl-methyl-amide | 0.0091 mol | C1(CCCCC1)N(S(=O)(=O)CCN)C | C9H20N2O2S
reactant | 5-benzoyl-2-nitro-benzaldehyde | 0.0091 mol | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H9NO4
solvent | DCE | 150 mL | ClCCCl | C2H4Cl2
product | 2-(5-Benzoyl-2-nitro-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(S(=O)(=O)CCNCC1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])C | C23H29N3O5S
